US08017779B2
Potassium carbonate (113 g) water (565 mL) were sequentially added to a solution of N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-2-ethoxyacetamide hydrochloride (113 g, 261 mmol) in denatured ethanol (1.695 L), and the resulting mixture was heated at reflux (77° C.) overnight and allowed to cool to room temperature. The ethanol was removed under reduced pressure, and the resulting mixture was filtered to isolate a solid. The solid washed with water (100 mL) and dried over two nights in a vacuum oven at 40° C. to provide 90 g of 1-[7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as a brown solid.

reactant | Potassium carbonate | 565 mL, 113 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-2-ethoxyacetamide hydrochloride | 261 mmol, 113 g | Cl.BrC1=CN=C2C(=C(C=NC2=C1)NC(COCC)=O)NCC(C)(C)O
solvent | ethanol | 1.695 L | C(C)O | C2H6O
product | 1-[7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 90 g | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)COCC | C16H19BrN4O2
